US08017611B2
4-bromo-2H-pyrazole-3-carbonitrile (500 mg), potassium carbonate (522 mg) and tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate (975 mg) in acetonitrile (15 ml) were stirred at 90° C. overnight. The mixture was concentrated and the residue was dissolved in ethylacetate, washed with water and brine, dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 10 to 50% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford. tert-butyl 4-(4-bromo-3-cyano-pyrazol-1-yl)piperidine-1-carboxylate (627 mg) The product gave the following characterizing data: NMR Spectrum: (DMSOd6) 1.41 (s, 9H), 1.74 (dd, 1H), 1.78 (dd, 1H), 1.98-2.08 (m, 2H), 2.90 (bs, 2H), 3.95-4.11 (m, 2H), 4.46-4.57 (m, 1H), 8.45 (s, 1H).

reactant | 4-bromo-2H-pyrazole-3-carbonitrile | 500 mg | BrC1=C(NN=C1)C#N | C4H2BrN3
reactant | potassium carbonate | 522 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate | 975 mg | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | tert-butyl 4-(4-bromo-3-cyano-pyrazol-1-yl)piperidine-1-carboxylate | 627 mg | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C#N | C14H19BrN4O2
